US06093732
Methyl 3-{[(4-chlorobenzyl)amino]carbonyl}-4-hydroxy-6-quinolinecarboxylate
A solution of N-(4-chlorobenzyl)-4-hydroxy-6-iodo-3-quinolinecarboxamide from Example No. 40 (30.0 g), Et3N (19.1 mL), MeOH (110.6 mL), Pd(OAc)2 (431 mg), and 1,3-bis (diphenylphosphino) propane (791.9 mg) in 375 mL anhydrous DMF is stirred at room temperature until everything dissolves. CO(g) is slowly bubbled through for 2 days and the reaction is maintained at 70° C. The reaction is cooled to room temperature. The product is precipitated by adding 160 mL 1N HCl to the reaction mixture. An orange solid precipitates and is collected. The solid is triturated with EtOAc, filtered, and washed with CH2Cl2 to afford 23.8 g (93%) of the title compound as an off-white solid.

reactant | N-(4-chlorobenzyl)-4-hydroxy-6-iodo-3-quinolinecarboxamide | ClC1=CC=C(CNC(=O)C=2C=NC3=CC=C(C=C3C2O)I)C=C1 | C17H12ClIN2O2
reactant | Et3N | 19.1 mL | CCN(CC)CC | C6H15N
reactant | MeOH | 110.6 mL | CO | CH4O
reactant | 1,3-bis (diphenylphosphino) propane | 791.9 mg | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | DMF | 375 mL | CN(C)C=O | C3H7NO
catalyst | Pd(OAc)2 | 431 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | Methyl 3-{[(4-chlorobenzyl)amino]carbonyl}-4-hydroxy-6-quinolinecarboxylate | 23.8 g, 93% | ClC1=CC=C(CNC(=O)C=2C=NC3=CC=C(C=C3C2O)C(=O)OC)C=C1 | C19H15ClN2O4
